US09416111B2
To a solution of 2-chloro-4-cyclopropyl-pyrimidine (12.5 g, 81 mmol) and 3-bromo-5-methylaniline (18.1 g, 97 mmol) in 1,4-dioxane (100 mL) was added pivalic acid (9.3 mL, 81 mmol). The resulting mixture was heated to reflux and left stirring for 10 hours. The mixture was allowed to cool to room temperature and hexanes were added (80 mL). The slurry was filtered and the filtrate was washed with MeOH to afford a portion of N-(3-bromo-5-methylphenyl)-4-cyclopropylpyrimidin-2-amine. The mother liquors were concentrated, absorbed on silica gel and purified by silica gel column chromatography (EtOAc/Hex) to afford additional N-(3-bromo-5-methylphenyl)-4-cyclopropylpyrimidin-2-amine as a white solid. MS ESI calcd. for C14H15BrN3 [M+H]+ 304 and 306. found 304 and 306.

reactant | 2-chloro-4-cyclopropyl-pyrimidine | 81 mmol, 12.5 g | ClC1=NC=CC(=N1)C1CC1 | C7H7ClN2
reactant | 3-bromo-5-methylaniline | 97 mmol, 18.1 g | BrC=1C=C(N)C=C(C1)C | C7H8BrN
reactant | pivalic acid | 81 mmol, 9.3 mL | C(C(C)(C)C)(=O)O | C5H10O2
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | N-(3-bromo-5-methylphenyl)-4-cyclopropylpyrimidin-2-amine | BrC=1C=C(C=C(C1)C)NC1=NC=CC(=N1)C1CC1 | C14H14BrN3
